US07687490B2
4-(3-Hydroxyazetidin-1-yl)carbonyl-5-((Z)-2-tritylthioethen-1-yl)thiazole
In the same manner as in step c) in Example 3, 0.742 g of the title compound was prepared from 0.957 g of 4-carboxy-5-((Z)-2-tritylthioethen-1-yl)thiazole and 0.757 g of 3-hydroxyazetidine tartrate.

reactant | 4-carboxy-5-((Z)-2-tritylthioethen-1-yl)thiazole | 0.957 g | C(=O)(O)C=1N=CSC1\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H19NO2S2
reactant | 3-hydroxyazetidine tartrate | 0.757 g | C(=O)(O)C(O)C(O)C(=O)O.OC1CNC1
product | 4-(3-Hydroxyazetidin-1-yl)carbonyl-5-((Z)-2-tritylthioethen-1-yl)thiazole | 0.742 g | OC1CN(C1)C(=O)C=1N=CSC1\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O2S2
